US06417009B1
A solution of phytol (49.3 g, 166 mmol) in ethanol (250 ml) was reduced with hydrogen gas at atmospheric pressure over Raney nickel for 3 days. The catalyst was removed by filtration through Celite® and the filtrate concentrated under reduced pressure to give phytanol (49.3 g, 100%). 1H-n.m.r. (CDCl3) δ0.8-0.95 (m, 15H), 1.0-1.75 (m, 24H), 3.65-3.75 (m, 2H). 13C-n.m.r. (CDCl3) δ19.67 (3×Me), 22.60 (Me), 22.69 (Me), 24.36 (CH2), 24.45 (CH2), 24.78 (CH2), 27.95 (CH), 29.50 (CH), 32.76 (2×CH), 37.28-37.43 (m, 5×CH2), 39.35 (CH2), 39.73 and 40.05 (together CH2), 61.18 (CH2).

reactant | phytol | 166 mmol, 49.3 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | phytanol | 49.3 g, 100% | C(CC(C)CCCC(C)CCCC(C)CCCC(C)C)O | C20H42O
